* C:\Users\Emre\Desktop\Emre\SPICE projects\Projects\Tube stuff\12AX7 model\12AX7_replica.asc
V1 gk 0 V
V2 ak 0 V
B1 N002 0 V=0.0000412594*(V(in)+61.564)*(V(in)+211.174)*0.001
R1 N002 0 1
B2 inbefore 0 V=V(ak)+V(gk)*100
D1 N003 inmid 1N914
D2 N005 0 1N914
R2 N003 N005 1k
R3 N004 N005 1k
V3 N004 0 5
R4 inmid 0 10k
B3 N003 0 V=V(inbefore)*0.1
B4 in 0 V=V(inmid)*10
B5 N001 0 V=pow(V(inbefore),1.5)*0.000001
R5 N001 0 1
.model D D
.lib C:\Users\Emre\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc V2 0 500 10 V1 0 -5 -0.5
* this polynomial was found by curve fit
.backanno
.end
